US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-ol
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-pyrrolidinol (5.2 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (4.9 mg). HRMS calcd for C15H16N2O3: 272.1161, found 272.1157.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-pyrrolidinol | 0.060 mmol, 5.2 mg | N1CC(CC1)O | C4H9NO
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-ol | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)O | C15H16N2O3
